US09284331B2
5-methyl-2-(tributylstannyl)oxazole
A solution of 5-methyloxazole (5.0 g, 60.2 mmol) in Et2O (100 mL) was cooled to −78° C. under N2 and treated with a 1.6 M solution of BuLi in hexane (41.4 mL, 66.2 mmol) dropwise. The mixture was stirred at −78° C. for 30 min and a solution of Bu3SnCl (16.31 mL, 60.2 mmol) in Et2O (50 mL) was then added dropwise. The mixture was stirred at −78° C. for another 30 min and then allowed to warm to RT. The reaction mixture was filtered on celite, and the filtrate concentrated in vacuo. Purification by distillation (0.1 Torr, 128-130° C.) afforded the title compound (3.5 g) as a yellow liquid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.88 (m, 12 H) 1.14-1.22 (m, 6 H) 1.27-1.38 (m, 6 H) 1.52-1.61 (m, 6 H) 2.17-2.21 (m, 3 H) 7.49-7.54 (m, 1 H).

reactant | 5-methyloxazole | 60.2 mmol, 5.0 g | CC1=CN=CO1 | C4H5NO
reactant | BuLi | [Li]CCCC
reactant | hexane | 66.2 mmol, 41.4 mL | CCCCCC | C6H14
reactant | Bu3SnCl | 60.2 mmol, 16.31 mL | [Sn](CCCC)(CCCC)(CCCC)Cl
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 5-methyl-2-(tributylstannyl)oxazole | 3.5 g | CC1=CN=C(O1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C4H4NO.3C4H9.Sn/c1-4-2-5-3-6-4;3*1-3-4-2;/h2H,1H3;3*1,3-4H2,2H3;
